US05219852
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-N-(carboxymethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
1.4 g (0.0031 mol) of N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-6-one are dissolved in 10 ml of methanol. 3 ml (0.003 mol) of 1N sodium hydroxide solution are added to this stirred solution at room temperature. After 5 minutes 15 ml of ice-water are added, and the mixture is neutralised with 3 ml of 1N hydrochloric acid. The aqueous phase is extracted by shaking 3× with methylene chloride. The organic phase is dried over sodium sulphate, filtered and evaporated to dryness. The resulting residue is purified on a silica gel column using methylene chloride methanol=20:1 as eluant. This results, after concentration, in colourless crystals.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-6-one | 0.0031 mol, 1.4 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OC(C1)=O)C=1N=C(SC1)C(F)(F)F | C20H21F3N2O5S
reactant | sodium hydroxide | 0.003 mol, 1N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-N-(carboxymethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CC(=O)O | C20H23F3N2O6S
